US09399646B2
Step 3: (E)-6-(1-(1H-Indazol-5-yl)-2-phenylbut-1-en-1-yl)-2-naphthoic acid
Hydrochloric acid (1 mL, 2M in ethyl ether) was added to a solution of (E)-6-(2-phenyl-1-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)but-1-en-1-yl)-2-naphthoic acid (190 mg, 0.38 mmol) and EtOH (5 mL). The reaction was heated at 70° C. for 30 min, concentrated, and then redissolved in THF:EtOH (1:1, 5 mL). Lithium hydroxide (90 mg, 3.8 mmol) in H2O was added. The reaction was stirred at room temperature for 2 h, acidified to pH 3 with 1.0 M aqueous HCl soln, and then extracted with EtOAc (×2). The organic layers were combined, washed with water then brine, dried over Na2SO4, and concentrated. The crude material was purified on a reversed phase C-18 column eluted with 70-90% acetonitrile in water in the presence of 0.1% TFA affording the title compound as a beige solid (42 mg, 26%). 1H NMR (DMSO-d6, 300 MHz): δ 13.08 (br, 2H), 8.39 (s, 1H), 8.09 (d, 1H), 7.82-7.65 (m, 4H), 7.53 (d, 1H), 7.44 (s, 1H), 7.21-7.06 (m, 7H), 2.49 (q, 2H), 0.93 (t, 3H); LCMS: 419 (M+H)+.

reactant | Hydrochloric acid | 2M, 1 mL | Cl | ClH
reactant | (E)-6-(2-phenyl-1-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)but-1-en-1-yl)-2-naphthoic acid | 0.38 mmol, 190 mg | C1(=CC=CC=C1)/C(=C(/C=1C=C2C=NN(C2=CC1)C1OCCCC1)\C=1C=C2C=CC(=CC2=CC1)C(=O)O)/CC | C33H30N2O3
reactant | EtOH | 5 mL | CCO | C2H6O
reactant | Lithium hydroxide | 3.8 mmol, 90 mg | [OH-].[Li+]
reactant | HCl | 1.0 M | Cl | ClH
solvent | H2O | O | H2O
product | (E)-6-(1-(1H-Indazol-5-yl)-2-phenylbut-1-en-1-yl)-2-naphthoic acid | N1N=CC2=CC(=CC=C12)\C(=C(/CC)\C1=CC=CC=C1)\C=1C=C2C=CC(=CC2=CC1)C(=O)O | C28H22N2O2
